US09085576B2
A solution of tert-butyl(2-((3-((1R,5S,6R)-3-amino-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4-fluorophenyl)carbamoyl)pyrimidin-5-yl)(methyl)carbamate (0.06 g, 0.11 mmol) in 1,4-dioxane (2 mL) was treated with HCl (4.0M in 1,4-dioxane; 1 mL). The resulting suspension was treated with water (0.1 mL) resulting in a pale-yellow biphasic solution. The solution was stirred for 2 h, concentrated, and lyophilized from 1,4-dioxane to give N-(3-((1R,5S,6R)-3-amino-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4-fluorophenyl)-5-(methylamino)pyrimidine-2-carboxamide dihydrochloride (0.05 g, 0.105 mmol, 93% yield) as a pale-yellow solid.

reactant | tert-butyl(2-((3-((1R,5S,6R)-3-amino-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4-fluorophenyl)carbamoyl)pyrimidin-5-yl)(methyl)carbamate | 0.11 mmol, 0.06 g | C(C)(C)(C)OC(N(C)C=1C=NC(=NC1)C(NC1=CC(=C(C=C1)F)[C@]1(N=C(O[C@@H]2C[C@H]12)N)C(F)F)=O)=O | C23H25F3N6O4
reactant | HCl | 4.0M, 1 mL | Cl | ClH
reactant | water | 0.1 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-(3-((1R,5S,6R)-3-amino-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4-fluorophenyl)-5-(methylamino)pyrimidine-2-carboxamide dihydrochloride | 0.105 mmol, 0.05 g, 93% yield | Cl.Cl.NC=1O[C@@H]2C[C@@H]2[C@@](N1)(C(F)F)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=N1)NC | InChI=1S/C18H17F3N6O2.2ClH/c1-23-9-6-24-14(25-7-9)15(28)26-8-2-3-12(19)10(4-8)18(16(20)21)11-5-13(11)29-17(22)27-18;;/h2-4,6-7,11,13,16,23H,5H2,1H3,(H2,22,27)(H,26,28);2*1H/t11-,13+,18+;;/m0../s1
